US04048181
Preparation of 2-ethoxycarbonylamino-6-benzylthiopyridine-1-oxide
A suspension of 1.0 g (0.0038 mole) of 2-ethoxycarbonylamino-6-bromopyridine-1-oxide, as prepared in Step 2 of Example 3, in 25 ml of methanol containing equivalent amounts of benzyl mercaptan and sodium methoxide, is heated under reflux for 2 hours. The reaction mixture is diluted with 150 ml water and the impure product is collected by filtration. Recrystallization from ethyl acetate-cyclohexane gave white needles having a m.p. of 139.8°-140.2° C.

reactant | 2-ethoxycarbonylamino-6-bromopyridine-1-oxide | 0.0038 mole, 1.0 g | C(C)OC(=O)NC1=[N+](C(=CC=C1)Br)[O-] | C8H9BrN2O3
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 2-ethoxycarbonylamino-6-benzylthiopyridine-1-oxide | C(C)OC(=O)NC1=[N+](C(=CC=C1)SCC1=CC=CC=C1)[O-] | C15H16N2O3S
